US09120823B2
To a mixture of 4-amino-3-nitro-phenyl sulfur pentafluoride (2.0 g), 60% sodium hydride (oil) (310 mg) and DMF (15 ml) was added dropwise iodomethane (447 μL) while ice-cooling. After that, the mixture was stirred at room temperature for 3 hours. To the reaction mixture was poured water, and the precipitated solid was collected by filtration. The solid was washed with water and dried to give methyl-(2-nitro-4-pentafluorosulfanyl-phenyl)-amine (2.0 g).

reactant | 4-amino-3-nitro-phenyl sulfur pentafluoride | 2.0 g | NC1=C(C=C(C=C1)S(F)(F)(F)(F)F)[N+](=O)[O-] | C6H5F5N2O2S
reactant | sodium hydride | 310 mg | [H-].[Na+]
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
reactant | iodomethane | 447 μL | IC | CH3I
solvent | water | O | H2O
product | methyl-(2-nitro-4-pentafluorosulfanyl-phenyl)-amine | 2.0 g | CNC1=C(C=C(C=C1)S(F)(F)(F)(F)F)[N+](=O)[O-] | C7H7F5N2O2S
